US08445696B2
A 630 L reactor was charged with sesamol (42.6 kg, 299 mol). Tetrahydrofuran (400 kg) was added and the resultant solution was cooled to 1° C. over 42 minutes. Isopropylmagnesium chloride (2 M solution in tetrahydrofuran, 173 kg, 337 mol) was added over 2 h such that the internal temperature was kept between 0 and 4° C. Once the addition was complete, the internal temperature was lowered to −5° C. and isatin (37.9 kg, 250 mol) was added in four portions. The reaction mixture was stirred for 2.75 h at 1 to 3° C. A 1000 L reactor was charged with ammonium chloride (72 kg), followed by deionized water (356 kg). The mixture was stirred at 15° C. until the solid had completely dissolved and the resultant solution was cooled to 1° C. over 1 h. The contents of the 630 L reactor were transferred to the 1000 L reactor over 1 h such that the internal temperature remained between 3 and 4° C. The 630 L reactor was rinsed with toluene (133 kg) and the rinse solution added to the 1000 L reactor. The contents of the 1000 L reactor were allowed to warm to 20-25° C. over 29 minutes and were stirred for a further 15 minutes. The stirring was stopped and the contents of the reactor held at 25° C. for 15 minutes, allowing the phases to separate. The aqueous phase was removed and a solution of sodium chloride (42 kg) in deionized water (218 kg) was added over 25 minutes at an internal temperature of 22-24° C. The stirring was stopped and the mixture held at 25° C. for 1 h, allowing the phases to separate. The organic phase was degassed for 0.5 h with nitrogen and toluene (89 kg) was added. A 300 mbar vacuum was applied to the reactor and the reactor's external temperature was set to 50-60° C. Volatile components of the mixture were removed by distillation over a period of 12 h such that 670 L of distillate were collected. The reactor's external temperature was set to 20-25° C. An orange precipitate was deposited upon cooling. Toluene (114 kg) was added and the suspension stirred for 10 minutes. The solid was collected by filtration, washed with tert-butyl methyl ether (171 kg) and heptane (85 kg) and dried at 55-60° C. under a reduced pressure of 170 to 4 mbar over a period of 10.5 h to afford 3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one (73.5 kg, quantitative yield) as a pale pink solid: purity (HPLC-UV at 300 nm) 99.3% a/a; 1H NMR (300 MHz, DMSO-d6) δ10.18 (s, 1H), 9.08 (s, 1H), 7.21-7.07 (m, 2H), 6.88-6.74 (m, 3H), 6.38 (br s, 1H), 6.23 (s, 1H), 5.92 (s, 2H); 13C NMR (75 MHz, DMSO-d6) δ178.4, 148.4, 146.6, 143.0, 139.4, 133.2, 128.6, 123.8, 121.1, 120.1, 109.0, 106.8, 100.8, 97.4, 75.1.

reactant | sesamol | 299 mol, 42.6 kg | C1OC2=C(O1)C=C(C=C2)O | C7H6O3
reactant | Isopropylmagnesium chloride | 337 mol, 2 M, 173 kg | C(C)(C)[Mg]Cl
reactant | isatin | 250 mol, 37.9 kg | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | ammonium chloride | 72 kg | [Cl-].[NH4+]
solvent | water | 356 kg | O | H2O
solvent | Tetrahydrofuran | 400 kg | O1CCCC1 | C4H8O
product | 3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one | 73.5 kg, quantitative yield | OC1(C(NC2=CC=CC=C12)=O)C1=CC2=C(OCO2)C=C1O | C15H11NO5
